US09216980B2
Preparation of 1-(4-Bromo-2-fluorobenzyl)-piperidine
To a pre-stirred solution of 4-bromo-2-fluorobenzaldehyde (1.82 g, 9.0 mmol) and piperidine (0.97 mL, 9.9 mmol) in DCM (40 mL) at 0° C. was added sodium triacetoxyborohydride (2.85 g, 13.4 mmol) in portions. The reaction mixture was allowed to warm to ambient temperature and stirred for an additional 14 h. The reaction was quenched by the addition of water (30 mL) and extracted with ethyl acetate (75 mL). The organic phase was separated, dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to afford the title compound as a colourless oil (2.6 g, 84%) that was used in the next step without further purification. NMR (CDCl3, 400 MHz): 7.33-7.17 (m, 3H), 3.49 (d, J=1.6 Hz, 2H), 2.43-2.33 (m, 4H), 1.61-1.53 (m, 4H), 1.46-1.38 (m, 2H).

reactant | 4-bromo-2-fluorobenzaldehyde | 9.0 mmol, 1.82 g | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
reactant | piperidine | 9.9 mmol, 0.97 mL | N1CCCCC1 | C5H11N
reactant | sodium triacetoxyborohydride | 13.4 mmol, 2.85 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-Bromo-2-fluorobenzyl)-piperidine | 2.6 g, 84% | BrC1=CC(=C(CN2CCCCC2)C=C1)F | C12H15BrFN
